US07723369B2
4-[4′-(4-(2,4-Dichloro-phenyl)-1-{4-[1,1,4-trioxo-5-(2-trimethylsilanyl-ethoxy methyl)-[1,2,5]thiadiazolidin-2-yl]-phenyl}-1H-imidazol-2-ylmethyl)-biphenyl-4-yl]-piperazin-2-one (17 mg, 0.02 mmol) was treated as described in general procedure L (using 2-iodopropane) and general procedure W stepwise to give 4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-1-isopropyl-piperazin-2-one.

reactant | 4-[4′-(4-(2,4-Dichloro-phenyl)-1-{4-[1,1,4-trioxo-5-(2-trimethylsilanyl-ethoxy methyl)-[1,2,5]thiadiazolidin-2-yl]-phenyl}-1H-imidazol-2-ylmethyl)-biphenyl-4-yl]-piperazin-2-one | 0.02 mmol, 17 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1S(N(C(C1)=O)COCC[Si](C)(C)C)(=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CC(NCC1)=O | C40H42Cl2N6O5SSi
reactant | 2-iodopropane | IC(C)C | C3H7I
product | 4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-1-isopropyl-piperazin-2-one | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1S(NC(C1)=O)(=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CC(N(CC1)C(C)C)=O | C37H34Cl2N6O4S
